US07517875B2
After dissolving 3-amino-4-tert-butoxycarbonylaminobenzoic acid methyl ester (817.3 mg, 3.07 mmol) in dichloromethane (10 ml), pyridine (0.373 ml, 4.60 mmol) and 2-nitrobenzenesulfonyl chloride (815 mg, 3.68 mmol) were added in an ice bath, and the mixture was stirred at room temperature for 4 hours. Pyridine (0.050 ml) and 2-nitrobenzenesulfonyl chloride (135 mg) were added, and stirring was continued for 2 hours. The reaction mixture was concentrated under reduced pressure, water (30 ml) was added, and then extraction was performed with ethyl acetate (20 ml×3 times). The obtained organic layer was washed with saturated brine and then dried over anhydrous magnesium sulfate. After concentration under reduced pressure, the crystallized residue was suspended in n-hexane-ethyl acetate (4:1), filtered, and dried to obtain 4-tert-butoxycarbonylamino-3-(2-nitro-benzenesulfonylamino)-benzoic acid methyl ester. The compound was identified by LC-MS.

reactant | 3-amino-4-tert-butoxycarbonylaminobenzoic acid methyl ester | 3.07 mmol, 817.3 mg | COC(C1=CC(=C(C=C1)NC(=O)OC(C)(C)C)N)=O | C13H18N2O4
reactant | pyridine | 4.60 mmol, 0.373 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-nitrobenzenesulfonyl chloride | 3.68 mmol, 815 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | Pyridine | 0.050 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-nitrobenzenesulfonyl chloride | 135 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-tert-butoxycarbonylamino-3-(2-nitro-benzenesulfonylamino)-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)NC(=O)OC(C)(C)C)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])=O | C19H21N3O8S
